US08912188B2
Step 2. 2-[5-(4-Fluorophenyl)furan-2-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a solution of 2-(4-fluorophenyl)furan (1.50 g, 9.25 mmol) in dry tetrahydrofuran (100 mL) was added a solution of n-BuLi (4.4 mL, 2.5M solution in hexane) dropwise with stirring at −78° C. under nitrogen. The resulting solution was warmed slowly to −40° C. over 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −78° C. followed by dropwise addition of 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane (3.42 g, 18.38 mmol). After warming to room temperature, the mixture was quenched with NH4Cl (aq) and extracted with ethyl acetate (3×80 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the residue (1.20 g crude), which was used to the next step without further purification.

reactant | 2-(4-fluorophenyl)furan | 9.25 mmol, 1.50 g | FC1=CC=C(C=C1)C=1OC=CC1 | C10H7FO
reactant | n-BuLi | 2.5M, 4.4 mL | [Li]CCCC
reactant | 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane | 18.38 mmol, 3.42 g | CC1(OB(OC1(C)C)OC(C)C)C | C9H19BO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[5-(4-Fluorophenyl)furan-2-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC1=CC=C(C=C1)C1=CC=C(O1)B1OC(C(O1)(C)C)(C)C | C16H18BFO3
